US06403814B1
To a mixture of 3-Benzyloxy-4-hydroxy benzaldehyde (15 g, 0.065 mol) and Iodine (17.54 g, 0.13 mol) was added 3.2% NaOH solution (150 ml). The reaction mixture was stirred at 75-80° C. for 8 h. The reaction mixture was cooled to room temperature and concentrated hydrochloric acid was added and the solid was filtered. Then the compound was recrystalized with isopropanol. The solid was filtered and dried to give 3-benzyloxy-4hydroxy-5-Iodo benzaldehyde (18.40 g, 79%). TLC: Ethyl acetate:light petroleum (2:5), Rf=0.4; 1H NMR (CDCl3, 200 MHz): δ 5.20 (s, 2H), 7.23-7.45 (m, 6H), 7.8 (d, J=1.42 Hz, 1H), 9.73 (s,1H).

reactant | 3-Benzyloxy-4-hydroxy benzaldehyde | 0.065 mol, 15 g | C(C1=CC=CC=C1)OC=1C=C(C=O)C=CC1O | C14H12O3
reactant | Iodine | 0.13 mol, 17.54 g | II | I2
reactant | hydrochloric acid | Cl | ClH
solvent | NaOH | 150 ml | [OH-].[Na+]
product | 3-benzyloxy-4hydroxy-5-Iodo benzaldehyde | 18.40 g, 79% | C(C1=CC=CC=C1)OC=1C=C(C=O)C=C(C1O)I | C14H11IO3
